US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-phenyl propanamide (CJS 3733)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3-phenylpropanoyl chloride to afford the title compound (15 mg, 19%). 1H-NMR (δ, ppm, DMSO-d6): 2.61 (t, 2H, CH2, J=8.0 Hz), 2.89 (t, 2H, CH2, J=8.0 Hz), 6.45 (d, 1H, HPy,5, J=6.0 Hz), 6.82 (d, 1H, Harom, J=8.0 Hz), 7.16-7.44 (m, 8H, Harom), 7.79 (d, 1H, HPy,6, J=6.0 Hz), 10.02 (s, 1H, NHamide), 11.16 (s, 1H, NHPy3), 11.37 (s, 1H, NHPy2). HRMS (EI): m/z[M+H] calcd for C21H19N4O3: 375.1457; found: 375.1469.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-phenylpropanoyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-phenyl propanamide | 15 mg, 19% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(CCC2=CC=CC=C2)=O)N1 | C21H18N4O3
